US06277987B1
A suspension of D-aspartic acid (10.0 g, 75.1 mmol) in 50 mL methanol is treated with thionyl chloride (8.94 g, 75.1 mmol) at 0° C. The reaction mixture is stirred at 0° C. for 30 min, then at RT for 2 h. The resulting clear solution is diluted with 200 mL diethyl ether with rapid stirring. A white precipitate is formed which is collected by vacuum filtration, washed with diethyl ether and dried to yield 10.7 g (78%) of D-aspartic acid β-methyl ester hydrochloride.

reactant | D-aspartic acid | 75.1 mmol, 10.0 g | N[C@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | thionyl chloride | 75.1 mmol, 8.94 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 50 mL | CO | CH4O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | D-aspartic acid β-methyl ester hydrochloride | 10.7 g, 78% | COC(=O)C[C@H](C(=O)O)N.Cl | InChI=1S/C5H9NO4.ClH/c1-10-4(7)2-3(6)5(8)9;/h3H,2,6H2,1H3,(H,8,9);1H/t3-;/m1./s1
